US08580803B2
N-(3-((5-(2-Methylbenzo yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)phenyl)acetamide was synthesized using N-(3-aminophenyl)acetamide and ((4-chloro-7H-pyrrolo[2,3-d]pyrimidin-5-yl)(o-tolyl)methanone according to the general procedure A. An off-white solid was obtained. M.p.>300° C.; 400 MHz 1HNMR (DMSO-d6) δ 11.36 (s, 1H), 10.01 (s, 1H), 8.46 (s, 1H), 8.06 (s, 1H), 7.73 (d, J=7.6 Hz, 1H), 7.57 (s, 1H), 7.49-7.45 (m, 2H), 7.39-7.28 (m, 4H), 2.34 (s, 3H), 2.02 (s, 3H); LCMS [M+H] 386.

reactant | N-(3-aminophenyl)acetamide | NC=1C=C(C=CC1)NC(C)=O | C8H10N2O
reactant | (4-chloro-7H-pyrrolo[2,3-d]pyrimidin-5-yl)(o-tolyl)methanone | ClC=1C2=C(N=CN1)NC=C2C(=O)C2=C(C=CC=C2)C | C14H10ClN3O
product | N-(3-((5-(2-Methylbenzo yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)phenyl)acetamide | CC1=C(C(=O)C2=CNC=3N=CN=C(C32)NC=3C=C(C=CC3)NC(C)=O)C=CC=C1 | C22H19N5O2
